US08247415B2
Step B: Methyl 6,7-dihydro-5H-pyrrolo[1,2-d]tetrazole-5-carboxylate
To a solution of starting methyl 5-methoxy-3,4-dihydro-2H-pyrrole-2-carboxylate (900 mg, 6.04 mmol) in 4 mL of acetic acid was added sodium azide (975 mg, 12.08 mmol) and the resulting suspension heat to 60° C. and stirred vigorously for 48 h. The solution was cooled to room temperature and diluted with 35 mL of ethyl ether. Solid potassium carbonate was added to the solution which was stirred at room temperature for 20 min. The solids were filtered off via fritted funnel, washed with cool ethyl ether and concentrated under vacuum. Solid precipitated during concentration and was filtered off after concentrating to one-fifth volume. The solids were washed once with cold ether (3 mL) and dried under high vacuum overnight to afford the title compound (308 mg, 31%). LC-MS: m/z (ES)=169 (MH)+.

reactant | methyl 5-methoxy-3,4-dihydro-2H-pyrrole-2-carboxylate | 6.04 mmol, 900 mg | COC=1CCC(N1)C(=O)OC | C7H11NO3
reactant | sodium azide | 12.08 mmol, 975 mg | [N-]=[N+]=[N-].[Na+]
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | acetic acid | 4 mL | C(C)(=O)O | C2H4O2
solvent | ethyl ether | 35 mL | C(C)OCC | C4H10O
product | Methyl 6,7-dihydro-5H-pyrrolo[1,2-d]tetrazole-5-carboxylate | 308 mg, 31% | N=1N=NN2C1CCC2C(=O)OC | C6H8N4O2
